US07897737B2
To a suspension of 2′-deoxyinosine (150 mg, 0.6 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphonate (BOP, 379 mg, 0.86 mmol) in anhydrous DMF (1.5 mL), N,N-diisopropylethylamine (186 μL, 1.1 mmol) was added followed by the addition of a solution of 1-(4-iodo-2-nitrophenyl)ethylamine (460 mg, 1.57 mmol) in anhydrous DMF (0.5 mL). The mixture was stirred under nitrogen atmosphere for 48 hours. DMF was removed in vacuo, and the crude product was purified by silica gel column chromatography to yield N6-[1-(4-iodo-2-nitrophenyl)ethyl]-2′-deoxyadenosine dA.20 (204 mg, 65%, 1:1 mixture of diastereomers) as a white foam.

reactant | 2′-deoxyinosine | 0.6 mmol, 150 mg | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O4
reactant | N,N-diisopropylethylamine | 1.1 mmol, 186 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(4-iodo-2-nitrophenyl)ethylamine | 1.57 mmol, 460 mg | IC1=CC(=C(C=C1)C(C)N)[N+](=O)[O-] | C8H9IN2O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N6-[1-(4-iodo-2-nitrophenyl)ethyl]-2′-deoxyadenosine | IC1=CC(=C(C=C1)C(C)NC=1C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N=CN1)[N+](=O)[O-] | C18H19IN6O5
